US07485647B2
5-Phenylpyrimidine-2-carboxylic acid
To a solution of 5-bromopyrimidine-2-carboxylic acid (5.01 g) and phenylboronic acid (3.61 g) in ethylene glycol dimethyl ether (150 ml), 2M aqueous sodium carbonate solution (100 ml) and tetralcistriphenylphosphine palladium (1.42 g) were added and stirred for 5 hours at 80° C. To the reaction liquid aqueous sodium hydrogencarbonate solution was added, diluted with water and washed with diethyl ether. To the aqueous layer 10% aqueous phosphoric acid was added to drop pH of the system to 4, followed by extraction with ethyl acetate, washing with saturated saline, drying over anhydrous sodium sulfate and concentration under reduced pressure. Thus the title compound (3.66 g) was obtained as white crystals. ESI-MS Found:m/z 201[M+H]+ ESI-MS Found:m/z 199[M−H]−

reactant | 5-bromopyrimidine-2-carboxylic acid | 5.01 g | BrC=1C=NC(=NC1)C(=O)O | C5H3BrN2O2
reactant | phenylboronic acid | 3.61 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethylene glycol dimethyl ether | 150 ml | COCCOC | C4H10O2
solvent | sodium carbonate | 2M, 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
catalyst | palladium | 1.42 g | [Pd] | Pd
product | 5-Phenylpyrimidine-2-carboxylic acid | 3.66 g | C1(=CC=CC=C1)C=1C=NC(=NC1)C(=O)O | C11H8N2O2
